US06562844B2
BAL Resin Immobilized 5-(S)-Aminomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one
Diisopropylcarbodiiimide (4.24 ml, 27.0 mmol) was added to 4-(4-formyl-3,5-dimethoxyphenoxy)butyric acid (13.19 g, 49.2 mmol) and pyridine (20 mL) in dichloromethane (190 mL), and the mixture was stirred at room temperature for 1 h. Tentagel S-NH2 resin (Rapp Polymere, 30.0 g, 12.3 mmol) was added, and the mixture agitated at room temperature overnight. Resulted BAL resin was filtered, washed liberally with methanol and dichloromethane and dried under vacuum. Triphenylphosphine (7.97 g, 0.0304 mol) was added to a mixture of above BAL aldehyde resin (50.9 g, 0.0209 mol) and 5-(S)-azidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one (15.5 g, 30.4 mmol) in THF (200 ml) under nitrogen at r.t. (room temperature). The mixture was agitated at r.t. for 2 h and then heated at 75° C. for 16 h. The mixture was cooled to r.t., and 1 M sodium cyanoborohydride in THF (62.7 ml, 62.7 mmol) was added. The mixture was agitated for 8 h at r.t. The resin was filtered, washed liberally with methanol and dichloromethane and dried under vacuum.

reactant | 4-(4-formyl-3,5-dimethoxyphenoxy)butyric acid | 49.2 mmol, 13.19 g | C(=O)C1=C(C=C(OCCCC(=O)O)C=C1OC)OC | C13H16O6
reactant | Triphenylphosphine | 0.0304 mol, 7.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | aldehyde resin | 0.0209 mol, 50.9 g | C1=CC=C(C=C1)CNC(=O)CN2C=C(C3=CC=CC=C32)C=O | C18H16N2O2
reactant | 5-(S)-azidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one | 30.4 mmol, 15.5 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C29H23FN4O2S
reactant | sodium cyanoborohydride | 1 M | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 190 mL | ClCCl | CH2Cl2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 62.7 mmol, 62.7 ml | C1CCOC1 | C4H8O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 5-(S)-Aminomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C29H25FN2O2S
